datasets/10k__Tet_Int.csv
SMILES Labelled
"C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C7=CC=CC=C7)C([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[O]2.C[NH:10][H] 21=20;20,10=10"
"[H][NH:10]C([H])C([H])[O][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H] 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])CC)CC)[H])CC>>[H]N([C:20]1(OC(C(C([O:21]1)CC)CC)[H])[O-:10])CC 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[Cl:21])C)CC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)C)CC.[Cl-:21] 10=20;20,21=21"
"[H][O+:10](C(C)C(C)C([H])[NH]1)[C:20]1([NH:21]CC)[O][H].[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C([H])[NH][C:20]([O][H])=[NH+:21]CC 21=20;20,10=10"
"[O-:10]C(CCC)C(O)C([C:20](OCC)=[O:21])[H]>>[O-:21][C:20]1(OCC)[O:10]C(CCC)C(O)C1[H] 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)C1=CC=CC=C1)CCCCCC>>[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)C1=CC=CC=C1)[O-:10])CCCCCC 21=20;20,10=10"
"[H][NH:10]C(C)C([H])C(C)[O][C:20]([NH]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C(C)[O]1)[C:20]1([NH:21][H])[NH]CC 10=20;20,21=21"
"[O-:21][C:20]2([O:10]C(C=CC=C3)=C3C2[H])OC>>[O-:10]C1=C(C([H])[C:20](OC)=[O:21])C=CC=C1 21=20;20,10=10"
"C[O+:21]=[C:20]2[O]C(C)C([H])[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21]C)[O]C(C)C([H])[O]1 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O]C([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[O]C([H])C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C([H])[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH]([H])[O]1 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)C)[H])C)[O-:10])C>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C)[H])C)C 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)[H])[H]>>CN([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)[H])[O-:10])[H] 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[NH]2.C[NH:10][H] 21=20;20,10=10"
"CCCCCCC1C(O[C:20](=[O:10])N1C1=CC=CC=C1)C.[O-:21]C1=CC=CC=C1>>CCCCCCC1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)C 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C7=CC=CC=C7)C(CC)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[O-:10]C(C)/C([H])=C([C:20](OC)=[O:21])/O>>[O-:21][C:20]1(OC)[O:10]C(C)C([H])=C1O 10=20;20,21=21"
"[OH:21][C:20]1([H])[OH+:10]C(CC)C(C)=C1[H]>>[OH:10]C(CC)/C(C)=C([C:20]([H])=[OH+:21])/[H] 21=20;20,10=10"
"[OH:10]C(C1=C(C([CH:20]([H])=[OH+:21])[H])C=CC=C1)C>>[OH:21][CH:20]2([H])C(C3=C(C([OH+:10]2)C)C=CC=C3)[H] 10=20;20,21=21"
"[O-:21][C:20]1([H])C([H])=C(C)C([H])C([H])[O+:10]1([K])>>[O:10]([K])C([H])C([H])/C(C)=C([H])\[C:20]([H])=[O:21] 21=20;20,10=10"
"CC[O:10][H].[H][O+:21]=[C:20]([O]CC)[S]CC.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21][H])([O]CC)[S]CC 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](CC)[CH](C)C([H])[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]([O:21][H])([O]C8=CC=CC=C8)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C[O:10][H].[H][O+:21]=[C:20]([O]C8=CC=CC=C8)[S]C7=CC=CC=C7 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C(C)C([H])=C(C)C([H])[O+:10]1([Na])>>[O:10]([Na])C([H])/C(C)=C([H])\C(C)[C:20](OCC)=[O:21] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C([H])[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([NH:21]C)([O]CC)[O][H].[Cl-]>>[Cl-].[H][O:10][H].C[NH+:21]=[C:20]([O]CC)[O][H] 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C([H])C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C([H])C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[K][O+:21]([C:20]([O-:10])(O[H])O[H])[H]>>[K][O:21][H].[C:20](=[O:10])(O[H])O[H] 10=20;20,21=21"
"[O:10]([K])C(CC)/C(C)=C([H])\C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C([H])=C(C)C(CC)[O+:10]1([K]) 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21][H])[S]C(CC)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C(CC)C(C8=CC=CC=C8)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][O:10]C(C)C([H])C(CC)[NH][C:20]([NH]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21]C)[NH]CC 10=20;20,21=21"
"[O-:21][C:20]1([H])C(C)=C(C)C(C)C(C)[O:10]1>>[O-:10]C(C)C(C)/C(C)=C(C)\[C:20]([H])=[O:21] 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])CC)[O-:10])CC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])CC)CC 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C([H])[O]1)[C:20]1([NH:21][H])[NH][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C([H])[O][C:20]([NH][H])=[NH+:21][H] 21=20;20,10=10"
